US05064832
(a) 4-(3-cyanophenyl)-pyridine N-oxide
Starting from 4-(3-cyanophenyl)-pyridine, the title compound is prepared by oxidation with H2O2 in glacial acetic acid [J. Heterocycl. Chem. 11, 299 (1974)].

reactant | 4-(3-cyanophenyl)-pyridine | C(#N)C=1C=C(C=CC1)C1=CC=NC=C1 | C12H8N2
reactant | H2O2 | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(3-cyanophenyl)-pyridine N-oxide | C(#N)C=1C=C(C=CC1)C1=CC=[N+](C=C1)[O-] | C12H8N2O
